US04515968
PREPARATION OF 2-FURALDEHYDE DIPROPYL MERCAPTAL
Into a 100 ml reaction flask equipped with reflux condenser, thermometer and magnetic stirring bar with hot plate and magnetic stirring apparatus is placed 0.5 grams of para-toluenesulfonic acid, 5 ml cyclohexane and 15.2 grams (0.2 moles) of n-propyl mercaptan. Over a period of 25 minutes, 9.6 grams (0.1 mole) of 2-furaldehyde is added with stirring. The reaction mixture is then heated to reflux and refluxed for a period of 10 hours while removing water of reaction. The the end of the 10 hour reflux period, the reaction mass is cooled to room temperature and transferred to a separatory funnel. The reaction mass is washed with one 50 ml portion of saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate and filtered. The resulting filtrate is then distilled on a Microvigreux column yielding the following fractions:

reactant | para-toluenesulfonic acid | 0.5 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | n-propyl mercaptan | 0.2 moles, 15.2 grams | C(CC)S | C3H8S
reactant | 2-furaldehyde | 0.1 mole, 9.6 grams | O1C(=CC=C1)C=O | C5H4O2
solvent | cyclohexane | 5 ml | C1CCCCC1 | C6H12
product | 2-FURALDEHYDE DIPROPYL MERCAPTAL | C(CC)SC(C=1OC=CC1)SCCC | C11H18OS2
